US05585473
V. 2-hydrazinoethanol triacetate
Glycolaldehyde (0.100 mmol, in dimeric form) was dissolved in 1.0 mL anhydrous hydrazine (Pierce or Aldrich Chemical Company) in a Pierce reacti-vial, and capped under nitrogen with a cap having a Pierce Tuf-bond teflon-silicone seal. The sample, after sitting at room temperature for 16 hours, was converted to the hydrazone derivative of glycolaldehyde which was evaporated to a resin-like material in a Speed-Vac concentrator. The sample was quantitatively transferred in a 1.0 mL volume of water into a 20 mL test tube, and 100 mg of sodium borohydride was added, which reduced the molecule to 2-hydrazinoethanol. After 24 hours, the sample was placed in an ice-water bath and 0.200 mL of glacial acetic acid was added, dropwise, over about a 30 second interval. The sample was diluted with 1.0 mL water. To it was added 200 mg of sodium bicarbonate and the bicarbonate was permitted to dissolve, with occasional mixing. Then, 0.100 mL acetic anhydride was added, followed by gentle swirling to dissolve all of it. After 10 minutes, another 0.100 mL acetic anhydride was added, the solution gently swirled to dissolve it, and, after an additional 50 minutes, the sample was diluted with 5.0 mL water and loaded on a column containing 10-12 mL of well-washed Dowex AG1-X8, 100-200 mesh, H+ form, to remove sodium. The column was washed with five additional washes of 10 mL water. The total eluate was rotary evaporated to near dryness, and then rotary evaporated to dryness five times with 20 mL of 1% acetic acid in methanol, and three times with 20 mL methanol alone, to remove boric acid, thereby resulting in 2-(N,N'-diacetylhydrazino)-ethanol. This sample contained some additional N,N'-diacetylhydrazine. It was either directly O-peracetylated on the free hydroxyl group as described below, or it was chromatographically purified prior to O-acetylation by high-performance liquid chromatography on a Waters GlycoPak N column (7.8×300 mm), using isocratic acetonitrile/water, at 85/15, vol/vol, at 1.0 mL/min, monitoring at a wavelength of 200 nm, giving a single product peak at 17 minutes. For O-acetylation, 1.0 μmol of 2-(N,N'-diacetylhydrazino)-ethanol, either before or after liquid chromatographic purification was dried in a Pierce reacti-vial in a Speed-Vac rotary concentrator. The dried samples were taken up in 100 μL of dry pyridine (Pierce, silylation grade) and 50 μL acetic anhydride was added. The samples were kept under argon for 24 hours at room temperature, whereupon the solvent was removed under a flow of nitrogen. The samples were solubilized in about 0.5 mL chloroform, and again concentrated under a flow of nitrogen. These data show that the product is 2-hydrazinoethanol triacetate.

reactant | Glycolaldehyde | 0.100 mmol | C(CO)=O | C2H4O2
reactant | N,N'-diacetylhydrazine | C(C)(=O)NNC(C)=O | C4H8N2O2
reactant | 2-(N,N'-diacetylhydrazino)-ethanol | 1.0 μmol | C(C)(=O)N(NC(C)=O)CCO | C6H12N2O3
solvent | hydrazine | 1.0 mL | NN | H4N2
product | 2-hydrazinoethanol triacetate | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.N(N)CCO | InChI=1S/C2H8N2O.3C2H4O2/c3-4-1-2-5;3*1-2(3)4/h4-5H,1-3H2;3*1H3,(H,3,4)
